US07479502B2
Methyl 4-hydroxyphenylacetate (10.5 g, 63.0 mmol) was dissolved in acetic acid (200 mL) and the solution was stirred while bromine (150 mL, 0.463 M in acetic acid, 69.5 mmol) was added over 60 minutes. The mixture was stirred overnight and then concentrated by evaporation. Product was purified from the residue over 300 g of silica gel (hexanes/ethyl acetate 5:1) to give methyl 3-bromo-4-hydroxyphenylacetate (11.9 g).

reactant | Methyl 4-hydroxyphenylacetate | 63.0 mmol, 10.5 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | bromine | 69.5 mmol, 0.463 M, 150 mL | BrBr | Br2
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | methyl 3-bromo-4-hydroxyphenylacetate | 11.9 g | BrC=1C=C(C=CC1O)CC(=O)OC | C9H9BrO3
